US07125901B2
[4-(Methoxycarbonyl)benzyl](triphenyl)phosphonium bromide (4.81 g) and DMF (60 ml) were combined under N2 atmosphere. Then potassium tert-butoxide (1.32 g) and N-{4-formyl-5-[4-(methylthio)benzyl]-1,3-thiazol-2-yl}acetamide (3 g) were added to the suspension at 0° C. The reaction mixture was stirred at r.t. for 18 hours, poured into ice-water, and extracted with AcOEt. The organic layer was washed with water and brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was purified by flash column chromatography over silica gel with CHCl3/AcOEt (2:1) as an eluent. The solid was suspended in AcOEt, and the suspension was filtered. The filtrate was concentrated in vacuo to give methyl 4-((Z)-2-{2-(acetylamino)-5-[4-(methylthio)benzyl]-1,3-thiazol-4-yl}vinyl)benzoate (4.16 g) as a yellow amorphous substance.

reactant | [4-(Methoxycarbonyl)benzyl](triphenyl)phosphonium bromide | 4.81 g | [Br-].COC(=O)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | potassium tert-butoxide | 1.32 g | CC(C)([O-])C.[K+]
reactant | N-{4-formyl-5-[4-(methylthio)benzyl]-1,3-thiazol-2-yl}acetamide | 3 g | C(=O)C=1N=C(SC1CC1=CC=C(C=C1)SC)NC(C)=O | C14H14N2O2S2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | methyl 4-((Z)-2-{2-(acetylamino)-5-[4-(methylthio)benzyl]-1,3-thiazol-4-yl}vinyl)benzoate | 4.16 g | C(C)(=O)NC=1SC(=C(N1)\C=C/C1=CC=C(C(=O)OC)C=C1)CC1=CC=C(C=C1)SC | C23H22N2O3S2
